US07425568B2
b) 2-Phenyl-2,3-dihydrobenzo[1,4]oxathiin-6-ol
A solution of 2-(2-hydroxy-1-phenylethylsulfanyl)benzene-1,4-diol (0.83 g) in dry toluene (60 ml) was stirred with Amberlyst 15 (0.5 g) at 60° C. until disappearance of the starting material. After the mixture was filtered and solvent evaporated the crude product was purified by column chromatography using heptane-ethyl acetate (1:1) as an eluant. 1H NMR (400 MHz, CDCl3) δ: 7.41 (m, 4H), 7.33-7.40 (m, 1H), 6.81 (d, 1H, J 8.7 Hz), 6.61 (d, 1H, J 3.0 Hz), 6.51 (dd, 1H, J 8.7, 3.0 Hz), 5.10 (dd, 1H, J 9.6, 1.9 Hz), 3.28 (dd, 1H, J 13.0, 9.6 Hz), 3.06 (dd, 1H, J 13.0, 1.9 Hz).

reactant | 2-(2-hydroxy-1-phenylethylsulfanyl)benzene-1,4-diol | 0.83 g | OCC(C1=CC=CC=C1)SC1=C(C=CC(=C1)O)O | C14H14O3S
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Phenyl-2,3-dihydrobenzo[1,4]oxathiin-6-ol | C1(=CC=CC=C1)C1OC2=C(SC1)C=C(C=C2)O | C14H12O2S
